US04098791
In the manner given in Example 1, 4-methylpiperidine is treated with cyanogen bromide and aqueous sodium sodium hydroxide to give 4-methyl-1-piperidinecarbonitrile.

reactant | 4-methylpiperidine | CC1CCNCC1 | C6H13N
reactant | cyanogen bromide | N#CBr | CBrN
reactant | sodium sodium hydroxide | [OH-].[Na+].[Na+].[OH-]
product | 4-methyl-1-piperidinecarbonitrile | CC1CCN(CC1)C#N | C7H12N2
